US08912200B2
Step 1: (3-Iodophenyl)(4-methylpiperazin-1-yl)methanone
1-Methylpiperazine (0.58 mL, 5.2 mmol), HOBt (0.70 g, 5.2 mmol) and EDCl (1.0 g, 5.2 mmol) were added to a solution of 3-iodobenzoic acid (1.0 g, 4.0 mmol) in dry DCM (40 mL). The mixture was stirred at room temperature for 16 h, washed with saturated aqueous sodium bicarbonate (30 mL), water (15 mL), brine, dried over sodium sulphate, and evaporated to afford the title compound (1.27 g, 96%).

reactant | 1-Methylpiperazine | 5.2 mmol, 0.58 mL | CN1CCNCC1 | C5H12N2
reactant | HOBt | 5.2 mmol, 0.70 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 5.2 mmol, 1.0 g | CCN=C=NCCCN(C)C.Cl
reactant | 3-iodobenzoic acid | 4.0 mmol, 1.0 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (3-Iodophenyl)(4-methylpiperazin-1-yl)methanone | 1.27 g, 96% | IC=1C=C(C=CC1)C(=O)N1CCN(CC1)C | C12H15IN2O
